US09212187B2
7-{[N-(1-Benzyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylmethyl)amino]methyl}-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
1-Benzyl-2-oxo-1,2,3,4-tetrahydroquinoline-6-carbaldehyde (0.205 g) was added to a methanol solution (10 ml) of 7-(aminomethyl)-1-ethyl-3,3,5-trimethyl-1H-benzo[b][1,4]diazepine-2,4(3H,5H)-dione (0.213 g). The mixture was stirred at room temperature overnight. Sodium borohydride (0.022 g) was added to the mixture, and the mixture was stirred at room temperature overnight. The liquid was then condensed under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate: methanol=9:1). The purified product was condensed under reduced pressure to give the title compound(0.400 g) as a white amorphous.

reactant | 1-Benzyl-2-oxo-1,2,3,4-tetrahydroquinoline-6-carbaldehyde | 0.205 g | C(C1=CC=CC=C1)N1C(CCC2=CC(=CC=C12)C=O)=O | C17H15NO2
reactant | 7-(aminomethyl)-1-ethyl-3,3,5-trimethyl-1H-benzo[b][1,4]diazepine-2,4(3H,5H)-dione | 0.213 g | NCC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C15H21N3O2
reactant | Sodium borohydride | 0.022 g | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 7-{[N-(1-Benzyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylmethyl)amino]methyl}-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.400 g | C(C1=CC=CC=C1)N1C(CCC2=CC(=CC=C12)CNCC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1)=O | C32H36N4O3
